US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[(2-methyl-2,3-dihydro-1H-isoindol-5-yl)methyl]-1,3,4-oxadiazole-2-carboxamide
Ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (30 mg, 0.081 mmol) and N-methyl-1-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)methanamine (29 mg, 0.162 mmol) were dissolved in DCE (5 mL) and stirred at 0° C. prior to being degassed with N2. Trimethylaluminium (2M in toluene, 80 μl) was added dropwise to this solution. Upon completion of addition, the reaction was heated to 60° C. and stirred for 1 h. The reaction was cooled, and saturated aqueous NaHCO3 (10 mL) was added. The aqueous layer was extracted with DCM (3×10 mL) and the combined organic extracts dried over Na2SO4 and concentrated in vacuo. The resulting brown oil was purified by FCC, eluting with 99:1 DCM:7M NH3 in MeOH followed by purification using prep method D to afford the title compound.

reactant | Ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.081 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OCC)C | C16H21N3O6S
reactant | N-methyl-1-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)methanamine | 0.162 mmol, 29 mg | CNCC=1C=C2CN(CC2=CC1)C | C11H16N2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[(2-methyl-2,3-dihydro-1H-isoindol-5-yl)methyl]-1,3,4-oxadiazole-2-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)N(CC=1C=C2CN(CC2=CC1)C)C)C | C25H31N5O5S
